US07713994B2
(4Z)-6-Iodo-4-({[2-(4-methylpiperazin-1-yl)pyrimidin-5-yl]amino}methylene)isoquinoline-1,3(2H,4H)-dione
A N,N-dimethylformamide solution (1.6 mL) of 6-iodo-4-methoxymethylene-4H-isoquinoline-1,3-dione (254 mg, 0.77 mmol), and 2-(4-methyl-piperazin-1-yl)-pyrimidin-5-ylamine (157 mg, 0.813 mmol) is heated at 90° C. for 40 min. After cooling in the refrigerator, the precipitate is collected, and washed with N,N-dimethylformamide and ether to give 259 mg (65%) of the title compound as a yellow solid. MS (ESI) m/z 491 (M+H)+1

reactant | 6-iodo-4-methoxymethylene-4H-isoquinoline-1,3-dione | 0.77 mmol, 254 mg | IC=1C=C2C(C(NC(C2=CC1)=O)=O)=COC | C11H8INO3
reactant | 2-(4-methyl-piperazin-1-yl)-pyrimidin-5-ylamine | 0.813 mmol, 157 mg | CN1CCN(CC1)C1=NC=C(C=N1)N | C9H15N5
solvent | N,N-dimethylformamide | 1.6 mL | CN(C=O)C | C3H7NO
product | (4Z)-6-Iodo-4-({[2-(4-methylpiperazin-1-yl)pyrimidin-5-yl]amino}methylene)isoquinoline-1,3(2H,4H)-dione | 259 mg, 65% | IC=1C=C2/C(/C(NC(C2=CC1)=O)=O)=C/NC=1C=NC(=NC1)N1CCN(CC1)C | C19H19IN6O2
